US06638926B2
2-(2-Trifluoromethyl-benzoylamino)-nicotinamide (800 mg, 2.6 mmol) is dissolved in 10 ml of ethanol. Potassium ethoxide (435 mg, 5.2 mmol) is added to the solution which is heated to reflux for 16 h. The reaction mixture is evaporated in vacuo to afford a gummy residue that is dissolved in water and acidified with 10% sodium hydrogen sulfate to pH 7. The resulting precipitate is filtered and dried under vacuum at 50 C to give 2-(2-trifluoromethyl-phenyl)-3H-pyrido[2,3-d]pyrimidin-4-one.

reactant | 2-(2-Trifluoromethyl-benzoylamino)-nicotinamide | 2.6 mmol, 800 mg | FC(C1=C(C(=O)NC2=C(C(=O)N)C=CC=N2)C=CC=C1)(F)F | C14H10F3N3O2
reactant | Potassium ethoxide | 5.2 mmol, 435 mg | [O-]CC.[K+]
reactant | sodium hydrogen sulfate | S(=O)(=O)(O)[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(2-trifluoromethyl-phenyl)-3H-pyrido[2,3-d]pyrimidin-4-one | FC(C1=C(C=CC=C1)C=1NC(C2=C(N1)N=CC=C2)=O)(F)F | C14H8F3N3O
